US05631369
Preparatlon of 4-(2-piperidinoethoxy)benzoic acid hydrochloride
To a 250 mL 3 neck flask with mechanical stirring and condenser, and a heating apparatus consisting of an RTD probe in the flask hooked via a temperature controller to a heating mantle and under nitrogen atmosphere, the following was added: 7.61 g of methyl 4-hydroxybenzoate, 11.05 g of β-chloroethylpiperidine hydrochloride, 16.59 g of powdered potassium carbonate and 60 mL of ethyl acetate. The mixture was heated slowly to reflux. After overnight reflux, the mixture was cooled to ambient temperature, after which 60 mL of deionized water was added. The aqueous layer was separated and discarded. The organic layer was extracted with 4N hydrochloride (3 aliquots of 20 mL). The combined acid extracts were heated to reflux. After 1 hour at reflux, HPLC indicated the saponification to be 60% complete. After 4 hours, the reaction was near 100% complete. The mixture was cooled to 0° C.-5° C. and stirred. The resulting crystals were filtered, rinsed with acetone and dried.

reactant | methyl 4-hydroxybenzoate | 7.61 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | β-chloroethylpiperidine hydrochloride | 11.05 g | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | 16.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 60 mL | O | H2O
product | 4-(2-piperidinoethoxy)benzoic acid hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1 | InChI=1S/C14H19NO3.ClH/c16-14(17)12-4-6-13(7-5-12)18-11-10-15-8-2-1-3-9-15;/h4-7H,1-3,8-11H2,(H,16,17);1H
